US03947456
The free base obtained from 70.0 g. of rac.-α-(aminomethyl)-3,4-dichlorobenzyl alcohol hydrochloride is heated at reflux in 1 l. of benzene with 40.8 g. of 3-methoxybenzaldehyde using a water-separator for 2 hours until no more water is released. After concentration and dissolving in 1 l. of methanol, the product is reduced with 30 g. of sodium borohydride below 5°, evaporated and extracted with methylene chloride and water. The methylene chloride extract, acidified with ethanolic hydrogen chloride, crystallizes with ethyl acetate and, after recrystallization from methanol-ether, yields rac.-3,4-dichloro-α-{[(3-methoxybenzyl)amino]methyl}benzyl alcohol hydrochloride, m.p. 198°-200°. The free base recrystallized from methanol-petroleum ether has a m.p. of 94°-95°.

reactant | rac.-α-(aminomethyl)-3,4-dichlorobenzyl alcohol hydrochloride | Cl.NCC(C1=CC(=C(C=C1)Cl)Cl)O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 3-methoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
solvent | water | O | H2O
product | rac.-3,4-dichloro-α-{[(3-methoxybenzyl)amino]methyl}benzyl alcohol hydrochloride | Cl.ClC=1C=C(C(CNCC2=CC(=CC=C2)OC)O)C=CC1Cl | InChI=1S/C16H17Cl2NO2.ClH/c1-21-13-4-2-3-11(7-13)9-19-10-16(20)12-5-6-14(17)15(18)8-12;/h2-8,16,19-20H,9-10H2,1H3;1H
